US07884103B2
c) 2-(4-Ethoxy-phenoxy-methyl)-2-methyl-malonic Acid Dimethyl Ester
11.5 g of sodium hydride (55% in oil) are suspended in 150 ml of tetrahydrofurane under nitrogen atmosphere. 29.6 g of methyl-malonic acid dimethyl ester are added during 20 minutes while maintaining the temperature at +25° C. by cooling. Stirring is continued until the gas evolution ceased. 37.8 g of 1-Chlormethoxy-4-ethoxy-benzene are then added over a period of 20 minutes maintaining the temperature at around +30° C. After 1.5 hours the mixture is cooled to +5° C. and 25 ml of ammonium chloride is added carefully, then poured into water and extracted with ethyl acetate. The organic phase is washed with brine and dried over sodium sulfate, filtered and the solvent evaporated. Flash chromatography (eluant: hexane/ethyl acetate 95:5) yielded 41.6 g of a slightly yellow powder.

reactant | sodium hydride | 11.5 g | [H-].[Na+]
reactant | methyl-malonic acid dimethyl ester | 29.6 g | COC(C(C(=O)OC)C)=O | C6H10O4
reactant | 1-Chlormethoxy-4-ethoxy-benzene | 37.8 g | ClCOC1=CC=C(C=C1)OCC | C9H11ClO2
reactant | ammonium chloride | 25 ml | [Cl-].[NH4+]
solvent | tetrahydrofurane | 150 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(4-Ethoxy-phenoxy-methyl)-2-methyl-malonic Acid Dimethyl Ester | COC(C(C(=O)OC)(C)COC1=CC=C(C=C1)OCC)=O | C15H20O6
